US05166347
Preparation of N-cyano-N'-(3,3-diphenylpropyl)-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.60 g, 3.2 mmol) was dissolved in methanol (10 ml), and 3,3-diphenylpropylamine (0.74 g, 3.5 mmol) was added. The mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction solution was concentrated under reduced pressure. The residual concentrate thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 50 g) eluting with chloroform-methanol (100:1). The eluted fractions were concentrated under reduced pressure and crystallized from methanol-diethyl ether to give the title compound (0.68 g, 2.0 mmol, yield: 63%) as colorless powder.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 3.2 mmol, 0.60 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 3,3-diphenylpropylamine | 3.5 mmol, 0.74 g | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(3,3-diphenylpropyl)-3-pyridinecarboximidamide | 2.0 mmol, 0.68 g, yield: 63% | C(#N)NC(=NCCC(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=NC=CC1 | C22H20N4
